US05693655
3-[1-(4-(indol-3-yl)butyl)-4-piperidyl]indole;
of 3-(4-chlorobutyl)-5-fluoroindole with 4-(5-fluoroindol-3-yl)piperidine:

reactant | 3-(4-chlorobutyl)-5-fluoroindole | ClCCCCC1=CNC2=CC=C(C=C12)F | C12H13ClFN
reactant | 4-(5-fluoroindol-3-yl)piperidine | FC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15FN2
product | 3-[1-(4-(indol-3-yl)butyl)-4-piperidyl]indole | N1C=C(C2=CC=CC=C12)CCCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C25H29N3
